US05716972
1-(4-Pyridyl)-2-(4-fluorophenyl)-4-(4-hydroxyphenyl)imidazole.
A mixture containing 1-(4-pyridyl)-2-(4-fluorophenyl)-4-(4-benzyloxyphenyl)imidazole (0.13 g, 0.3 mmol) and 10% palladium on activated carbon (100 mg) in EtOAc was stirred under an atmosphere of H2 for 10 h, at which time the reaction mixture was filtered through a pad of Celite. The filtrate was concentrated under reduced pressure, and the residue was purified by flash chromatography, eluting with 1:1 EtOAc/hexanes.

reactant | 1-(4-pyridyl)-2-(4-fluorophenyl)-4-(4-benzyloxyphenyl)imidazole | 0.3 mmol, 0.13 g | N1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C27H20FN3O
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-Pyridyl)-2-(4-fluorophenyl)-4-(4-hydroxyphenyl)imidazole | N1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)F | C20H14FN3O
